US07989463B2
Synthesis of 1-{4-[2-(2-oxo-pyrrolidin-1-yl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-phenyl}-cyclobutanecarboxylic acid methyl ester
A glass tube was charged with 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester (0.5 g, 1.4 mmol), 2-pyrrolidinone (0.17 g, 2 mmol) and alternatively purged and backfilled with nitrogen. Thereafter, tris(dibenzylideneacetone)dipalladium(0) (0.05 g), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthine (0.05 g), cesium carbonate (0.7 g, 2.2 mmol) and anhydrous 1,4-dioxane (6 mL) were introduced in the tube and again flushed with nitrogen. The reaction was stirred at a temperature in the range of 40° C. to 100° C. under stirring until complete as evidenced by the disappearance of starting chloro compound (TLC). The resulting mixture was cooled to a temperature in the range of 15° C. to 40° C., diluted with ethyl acetate (20 mL), filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel to afford the title compound as a light yellow solid (0.44 g, 78% yield).

reactant | 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | 1.4 mmol, 0.5 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)Cl | C19H20ClN3O2
reactant | 2-pyrrolidinone | 2 mmol, 0.17 g | N1C(CCC1)=O | C4H7NO
reactant | cesium carbonate | 2.2 mmol, 0.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.05 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-{4-[2-(2-oxo-pyrrolidin-1-yl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-phenyl}-cyclobutanecarboxylic acid methyl ester | 0.44 g, 78% yield | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)N2C(CCC2)=O | C23H26N4O3
